US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[Cis-5-methyl-4,5,6,7-tetrahydro-1-benzothien-4-yl]pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting 5-bromo-3,6-diethyl-N-(5-methyl-4,5,6,7-tetrahydro-1-benzothien-4-yl)pyrazin-2-amine, ethylene glycol dimethyl ether and tetrakis(triphenylphosphine) palladium and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ) 7.51, 7.33, 7.11; 6.96, 5.66, 4.52, 2.95-2.62, 2.55, 2.38, 2.05, 1.97, 1.79, 1.26, 1.20, 1.07; HRMS (FAB) calcd for C23H25Cl2N3S+H 446.1224, found 446.1224.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 5-bromo-3,6-diethyl-N-(5-methyl-4,5,6,7-tetrahydro-1-benzothien-4-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1C(CCC2=C1C=CS2)C)CC | C17H22BrN3S
catalyst | tetrakis(triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethylene glycol dimethyl ether | COCCOC | C4H10O2
product | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[Cis-5-methyl-4,5,6,7-tetrahydro-1-benzothien-4-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CCC2=C1C=CS2)C)CC | C23H25Cl2N3S
